US20010020095A1
4-Methyl-1-indanone-3-carboxylic acid, 12a.
To a mixture of o-tolualdehyde (500 g), ethyl cyanoacetate (445 g) and ethanol (500 ml) was added piperidine (16 ml). After azeotrope destillation (200 ml) more ethanol (200 ml) was added, and the mixture was refluxed for 2 hours. The solution was cooled to 40° C., and a solution of NaCN (225 g) in water (300 ml) was added over 20 minutes. The mixture was stirred for one hour and was then left for 16 hours at room temperature. Concentrated HCl (5 l) was added slowly and then water/ethanol was destined off until the temperature reached 100° C. The mixture was then refluxed for 4 hours and then stirred at room temperature for 16 hours. The mixture was filtered, and the crystals were washed with water. The crystals were dissolved in 4 M NaOH (3 l) and filtrated. Then pH was adjusted to 1 with concentrated hydrochloric acid, and the crystals were filtered off and dried yielding 610 g which was dissolved in thionyl chloride (2 l). DMF (10 ml) was added and the solution was refluxed for 2.5 hours and evaporated in vacuo. The residue was dissolved in CH2Cl2 (1.2 l) and was added during 1 hour to a cooled mixture of AlCl3 (600 g) in CH2Cl2 (4 l) at 0-5° C. The mixture was stirred at room temperature for 16 hours and was then poured on ice/water (5 l) and concentrated hydrochloric acid (500 ml). Conventional work up gave the crude title product (605 g), which was purified by column chromatography on silica gel eluted with CH2Cl2-ether-acetic acid (50:50:2) giving 236 g of the title product.

reactant | o-tolualdehyde | 500 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | ethyl cyanoacetate | 445 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | piperidine | 16 ml | N1CCCCC1 | C5H11N
reactant | NaCN | 225 g | [C-]#N.[Na+]
reactant | HCl | 5 l | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | thionyl chloride | 2 l | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water ethanol | O.C(C)O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-Methyl-1-indanone-3-carboxylic acid | 236 g | CC1=CC=CC2=C1C(CC2=O)C(=O)O | C11H10O3
